US09278978B2
G1) 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine
The following compounds are prepared analogously utilizing (5-fluoropyridin-3-yl)boronic acid, [6-(trifluoromethyl)pyridin-3-yl]boronic acid, (6-methoxypyridin-3-yl)boronic acid, (2-fluorophenyl)boronic acid, phenylboronic acid or (pyridin-3-yl)boronic acid, respectively:

reactant | (5-fluoropyridin-3-yl)boronic acid | FC=1C=C(C=NC1)B(O)O | C5H5BFNO2
reactant | [6-(trifluoromethyl)pyridin-3-yl]boronic acid | FC(C1=CC=C(C=N1)B(O)O)(F)F | C6H5BF3NO2
reactant | (6-methoxypyridin-3-yl)boronic acid | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | (2-fluorophenyl)boronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | (pyridin-3-yl)boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=CC(=CC(=N1)N)C1=CC=NC=C1 | C18H13N3
